US08623911B2
To a solution of 1-(2-bromophenyl)-2-methylpropan-2-ol (3.48 g, 15 mmol) in THF (100 mL) cooled to −78° C. was added n-butyllithium (15.2 mL, 2.5M in hexanes) in a dropwise fashion. The reaction was permitted to stir for 10 minutes, prior to the addition of triisopropylborate (10.5 mL, 45 mmol). The reaction was permitted to stir for 16 hours, gradually warming to room temperature. Aqueous hydrochloric acid (10 mL, 6M) was added, and the mixture stirred for 1 hour. The reaction was diluted with EtOAc (250 mL) and water (50 mL). The organic portion was washed with brine, dried over sodium sulfate, and evaporated. The resultant crude material was purified by silica gel chromatography to yield 3,3-Dimethyl-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol as a white semisolid product. 1H NMR (400 MHz, acetone) δ ppm 1.13 (s, 6H) 2.76 (s, 2H) 6.99-7.04 (m, 1H) 7.05-7.14 (m, 1H) 7.21-7.27 (m, 1H) 7.58-7.64 (m, 1H). Amount obtained: 830 mg, 31% yield.

reactant | 1-(2-bromophenyl)-2-methylpropan-2-ol | 15 mmol, 3.48 g | BrC1=C(C=CC=C1)CC(C)(O)C | C10H13BrO
reactant | n-butyllithium | 2.5M, 15.2 mL | C(CCC)[Li]
reactant | triisopropylborate | 45 mmol, 10.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 6M, 10 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
product | 3,3-Dimethyl-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 31% yield | CC1(CC2=C(B(O1)O)C=CC=C2)C | C10H13BO2
